US04748165
A solution of 5-[4-(3-methylthioureido)1,2,3-triazol-2-yl]valeronitrile in methanolic ammonia (6M; 15 ml.) was treated with mercuric oxide (1.1 g.) and tne mLxture stirred for 3 hours at room temperature. The resulting suspension was filtered through diatomaceous earth and the filtrate evaporated to give 5-[4-(2-methylguanidino)-1,2,3-triazol-2-yl]valeronitrile as a yellow oil.

reactant | 5-[4-(3-methylthioureido)1,2,3-triazol-2-yl]valeronitrile | CNC(NC1=NN(N=C1)CCCCC#N)=S | C9H14N6S
reactant | ammonia | 6M, 15 ml | N | H3N
product | 5-[4-(2-methylguanidino)-1,2,3-triazol-2-yl]valeronitrile | CN=C(NC1=NN(N=C1)CCCCC#N)N | C9H15N7
